US07094801B2
5-Benzo[b]thiophen-2-yl-2,4-dimethoxy-benzaldehyde
Ex-123A: Potassium fluoride (0.42 g, 7.2 mmol), 5-iodo-2,4-dimethoxy-benzaldehyde (Ex-123, 1.0 g, 3.42 mmol), 2-benzo[b]thiophene boronic acid (0.67 g, 3.77 mmol), degased tetrahydrofuran (10 mL), tris(dibenzylideneacetone)dipalladium (19 mg, 0.02 mmol), and tri-tert-butylphosphine (100 mg, 0.05 mmol) were sequentially charged into a flask equipped with a condenser and nitrogen inlet adapter. The reaction mixture was heated at 60° C. for one hour under nitrogen. HPLC analysis indicated of 100% conversion of 5-iodo-2,4-dimethoxy-benzaldehyde (Ex-123) to the title compound prepared through another route (Ex-3A).

reactant | Potassium fluoride | 7.2 mmol, 0.42 g | [F-].[K+]
reactant | 5-iodo-2,4-dimethoxy-benzaldehyde | 3.42 mmol, 1.0 g | IC=1C(=CC(=C(C=O)C1)OC)OC | C9H9IO3
reactant | 2-benzo[b]thiophene boronic acid | 3.77 mmol, 0.67 g | S1C2=C(C=C1B(O)O)C=CC=C2 | C8H7BO2S
reactant | tri-tert-butylphosphine | 0.05 mmol, 100 mg | C(C)(C)(C)P(C(C)(C)C)C(C)(C)C | C12H27P
catalyst | tris(dibenzylideneacetone)dipalladium | 0.02 mmol, 19 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 5-Benzo[b]thiophen-2-yl-2,4-dimethoxy-benzaldehyde | S1C2=C(C=C1C=1C(=CC(=C(C=O)C1)OC)OC)C=CC=C2 | C17H14O3S
